US08476292B2
Acetyl chloride (150 μL, 1.1 equivalents (eq)) was added to N-{2-[4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}methanesulfonamide (750 mg, 1 eq) in a mixture of triethylamine (401 μL, 1.5 eq) and N,N-dimethylformamide (DMF) (5 mL) and the resulting solution was stirred at ambient temperature. After 2 hours acetic anhydride (1 mL) was added. The reaction mixture was stirred at ambient temperature for 1 hour and then concentrated under reduced pressure. The residue was purified by automated flash chromatography (silica gel eluted with a gradient of 0-10% methanol in dichloromethane containing 1% ammonium hydroxide) to provide 278 mg of N-(2-ethoxymethyl-1-{2-methyl-2-[(methylsulfonyl)amino]propyl}-1H-imidazo[4,5-c]quinolin-4-yl)acetamide as a white powder, mp 75-76° C. Anal. calcd for C20H27N5O4S.0.40H2O: C, 54.50; H, 6.36; N, 15.89. Found: C, 54.70; H, 6.10; N, 15.58.

reactant | Acetyl chloride | 150 μL, 1.1 equivalents | C(C)(=O)Cl | C2H3ClO
reactant | N-{2-[4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}methanesulfonamide | 750 mg, 1 eq | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC | C18H25N5O3S
reactant | triethylamine | 401 μL, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(2-ethoxymethyl-1-{2-methyl-2-[(methylsulfonyl)amino]propyl}-1H-imidazo[4,5-c]quinolin-4-yl)acetamide | 278 mg | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)NC(C)=O)N1)CC(C)(NS(=O)(=O)C)C | C20H27N5O4S
